US04980369
Phenyl 3,3-dimethylacrylate (Compound 37)
To an ice bath cooled solution of 1.29 g (54 mmol) of NaH (obtained from a 60% suspension in mineral oil by 3×10 ml hexane wash) in 20 ml of dry THF was added slowly under oxygen a solution of 5 g (53 mmol) of phenol in 50 ml of dry THF. The mixture was then treated with a solution of 7 g (59 mmol) of dimethylacryloyl chloride in 30 ml of dry THF. The cooling bath was then removed and the mixture was stirred for a further 2.5 h. The reaction mixture was then poured into 150 ml of water containing 1 ml of glacial acetic acid. The mixture was extracted with 150 ml ether and the ether extract washed with saturated NaCl solution and then dried (MgSO4). The solvent was removed in vacuo and the residue purified by flash chromatography (silica; 5% ether in hexanes) to give the title compound as a yellow oil. PMR (CDCl3)): & 1.99 (3H, s), 2.24 (3H, s) 5.93 (1H, broad s), 7.10 (2H, d, J~7.8 Hz) 7.22 (1H, t, J~7 8 Hz), 7.38 (2H, t, J~7.8 Hz).

reactant | phenol | 53 mmol, 5 g | C1(=CC=CC=C1)O | C6H6O
reactant | dimethylacryloyl chloride | 59 mmol, 7 g | CC(=CC(=O)Cl)C | C5H7ClO
solvent | THF | 50 ml | C1CCOC1 | C4H8O
solvent | THF | 30 ml | C1CCOC1 | C4H8O
product | Phenyl 3,3-dimethylacrylate | CC(=CC(=O)OC1=CC=CC=C1)C | C11H12O2
